US09085568B2
Step C: 5-Benzyl-5-[5-(3,5-dimethoxyphenyl)-4H-1,2,4-triazol-3-yl]-3-[(1R)-1-(4-fluorophenyl)ethyl]-1,3-oxazolidine-2,4-dione
To a solution of methyl 2-[5-(3,5-dimethoxyphenyl)-4H-1,2,4-triazol-3-yl]-2-hydroxy-3-phenylpropanoate (7 mg) in 1 mL of THF was added NaOH (4 mg) and (R)-1-fluoro-4-(1-isocyanatoethyl)benzene (15 mg). The resulting mixture was stirred at ambient temperature overnight. The resulting mixture was diluted with ethyl acetate, and then quenched with water. The organic layer was concentrated and purified by reverse phase HPLC (YMC Pro-C18 column, gradient elution, 30% to 100% acetonitrile/water with 0.1% TFA) to give the title compound. LC/MS 517.2 (M+1). IC50 value=C rating.

reactant | methyl 2-[5-(3,5-dimethoxyphenyl)-4H-1,2,4-triazol-3-yl]-2-hydroxy-3-phenylpropanoate | 7 mg | COC=1C=C(C=C(C1)OC)C=1NC(=NN1)C(C(=O)OC)(CC1=CC=CC=C1)O | C20H21N3O5
reactant | NaOH | 4 mg | [OH-].[Na+]
reactant | (R)-1-fluoro-4-(1-isocyanatoethyl)benzene | 15 mg | FC1=CC=C(C=C1)[C@@H](C)N=C=O | C9H8FNO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Benzyl-5-[5-(3,5-dimethoxyphenyl)-4H-1,2,4-triazol-3-yl]-3-[(1R)-1-(4-fluorophenyl)ethyl]-1,3-oxazolidine-2,4-dione | C(C1=CC=CC=C1)C1(C(N(C(O1)=O)[C@H](C)C1=CC=C(C=C1)F)=O)C1=NN=C(N1)C1=CC(=CC(=C1)OC)OC | C28H25FN4O5
